US07163936B2
To a solution of tert-butyl(4S)-4-{[(benzyloxy)carbonyl]amino}-5-bromopentanoate (4.5 g, 11.7 mmol) and tributyltin hydride (6.3 ml, 23.4 mmol) in toluene (45 ml) was added 2,2′-azobisisobutyronitrile (0.19 g, 1.2 mmol) and the mixture was stirred at 80° C. for 20 minutes. To the reaction mixture was added water, and the solution was extracted three times with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and the organic solvent was removed under reduced pressure. The residue was purified with silica gel chromatography to give tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}pentanoate (3.5 g, 98%).

reactant | tert-butyl(4S)-4-{[(benzyloxy)carbonyl]amino}-5-bromopentanoate | 11.7 mmol, 4.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)CBr | C17H24BrNO4
reactant | tributyltin hydride | 23.4 mmol, 6.3 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobisisobutyronitrile | 1.2 mmol, 0.19 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | water | O | H2O
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}pentanoate | 3.5 g, 98% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C | C17H25NO4
